US05610192
Synthesis of 3-Hydroxy-2-naphthoic (2,3-dihydroxy-1-naphthylmethylene) hydrazide (III41A)
Following the general procedure of Example 1, condensation of 2, 3-dihydroxy-1-naphthaldehyde and 3-hydroxy-2-naphthoic hydrazide yielded a yellow crystal (18%) [recrystallized from dioxane/H2O (1:1, v/v)]: mp>285° C.; 1H NMR d 13.16 (br s, 1 H), 12.27 (br s, 1 H), 11.30 (br s, 1 H), 9.74 (br s, 1 H), 9.57 (s, 1 H), 8.53 (s, 1 H), 8.17 (d, 1 H, J=8.2 Hz), 7.95 (d, 1 H, J=8.2 Hz), 7.79 (d, 1 H, J=8.0 Hz), 7.70 (d, 1 H, J=7.7 Hz), 7.54 (t, 1 H, J=7.4 Hz), 7.42-7.25 (m, 5 H); HRMS Calcd for C22H16N2O4 :372.1110, found 372.1103; Anal. (C22H16N2O4H2O) C, H, N.

reactant | 2, 3-dihydroxy-1-naphthaldehyde | OC1=C(C2=CC=CC=C2C=C1O)C=O | C11H8O3
reactant | 3-hydroxy-2-naphthoic hydrazide | OC=1C(=CC2=CC=CC=C2C1)C(=O)NN | C11H10N2O2
product | 3-Hydroxy-2-naphthoic (2,3-dihydroxy-1-naphthylmethylene) hydrazide | 18% | OC1=C(C2=CC=CC=C2C=C1O)C=NNC(=O)C1=CC2=CC=CC=C2C=C1O | C22H16N2O4
